US04942246
(2) 4-Bromo-3-chloro-2-methoxymethylphenyl methyl sulfone
To a suspension comprising 8.5 g of 4-bromo-2-bromomethyl-3-chlorophenyl methyl sulfone and 100 ml of methanol, 1.5 g of sodium methoxide (95%) was added under cooling with ice, and then the mixture was stirred at room temperature overnight.

reactant | 4-bromo-2-bromomethyl-3-chlorophenyl methyl sulfone | 8.5 g | CS(=O)(=O)C1=C(C(=C(C=C1)Br)Cl)CBr | C8H7Br2ClO2S
reactant | sodium methoxide | 1.5 g | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 4-Bromo-3-chloro-2-methoxymethylphenyl methyl sulfone | CS(=O)(=O)C1=C(C(=C(C=C1)Br)Cl)COC | C9H10BrClO3S
